US08802679B2
Benzyl 4-[3′-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)biphenyl-4-yl]piperazine-1-carboxylate (1.5 g) was dissolved in a mixed solution of MeOH (15 ml) and THF (15 ml). 10% Pd—C (150 mg) was added thereto, followed by stirring at room temperature for 1 day under a hydrogen atmosphere. The reaction mixture was filtered using Celite as a filtration assistant, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain tert-butyl (2-{methyl [(4′-piperazin-1-ylbiphenyl-3-yl)methyl]amino}-2-oxoethyl)carbamate (860 mg).

reactant | Benzyl 4-[3′-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)biphenyl-4-yl]piperazine-1-carboxylate | 1.5 g | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C33H40N4O5
solvent | MeOH | 15 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | Pd—C | 150 mg | [Pd] | Pd
product | tert-butyl (2-{methyl [(4′-piperazin-1-ylbiphenyl-3-yl)methyl]amino}-2-oxoethyl)carbamate | 860 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCNCC1 | C25H34N4O3
